US09351965B2
To a solution of 2-phenyl-1,3-dithiane (12 mmol, 2.35 g) in THF (15 mL) at 78° C. was added a solution of lithium diisopropylamide in THF/heptane/ethylbenzene (12 mmol, 1.8 M, 6.7 mL) under argon. The reaction mixture was warmed up to −20° C. and stirred for 30 minutes at −20° C. The reaction mixture was cooled down to −78° C. tert-Butyl 3-oxocyclohexylcarbamate (5 mmol, 1.065 g) in THF was added. The reaction mixture was allowed to warm up to room temperature and stirred for overnight. Acetic anhydride (20 mmol, 1.9 mL) was added. The reaction mixture was stirred at room temperature for 4 hours. Water was added. The organics were extracted with EtOAc. 3-(tert-Butoxycarbonylamino)-1-(2-phenyl-1,3-dithiaN-2-yl)cyclohexyl acetate was obtained after purification by silica gel column chromatography.

reactant | 2-phenyl-1,3-dithiane | 12 mmol, 2.35 g | C1(=CC=CC=C1)C1SCCCS1 | C10H12S2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | THF heptane ethylbenzene | 12 mmol, 1.8 M, 6.7 mL | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
reactant | tert-Butyl 3-oxocyclohexylcarbamate | 5 mmol, 1.065 g | O=C1CC(CCC1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | Acetic anhydride | 20 mmol, 1.9 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 3-(tert-Butoxycarbonylamino)-1-(2-phenyl-1,3-dithiaN-2-yl)cyclohexyl acetate | C(C)(=O)OC1(CC(CCC1)NC(=O)OC(C)(C)C)C1(SCCCS1)C1=CC=CC=C1 | C23H33NO4S2
